US05872137
To a mixture of 10 g of 3-chloro-4-methoxymethoxy-5-methylphenol, 7 g of potassium carbonate and 100 ml of N,N-dimethylformamide was added dropwise a solution of 8 g of 1,1,3-trichloro-1-propene dissolved in 30 ml of N,N-dimethylformamide, while stirring at room temperature. After stirring at room temperature for 12 hours, the reaction mixture was poured into ice water, and extracted with 200 ml of diethyl ether. The combined ether was washed with water, dried with anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel chromatography, which afforded 14.1 g of 3-chloro-4-methoxymethoxy-5-methyl-1-(3,3-dichloro-2-propenyloxy)benzene (91% yield).

reactant | 3-chloro-4-methoxymethoxy-5-methylphenol | 10 g | ClC=1C=C(C=C(C1OCOC)C)O | C9H11ClO3
reactant | potassium carbonate | 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,3-trichloro-1-propene | 8 g | ClC(=CCCl)Cl | C3H3Cl3
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-chloro-4-methoxymethoxy-5-methyl-1-(3,3-dichloro-2-propenyloxy)benzene | 14.1 g, 91% yield | ClC=1C=C(C=C(C1OCOC)C)OCC=C(Cl)Cl | C12H13Cl3O3
